US05607950
4-(2-Cyano-2,2-diphenylethyl)piperidine
A mixture of 4-(2-cyano-2,2-diphenylethyl)-1-(4-methylphenylsulphonyl)piperidine (20 g, 45 mmol--see Preparation 14) and phenol (20 g) in 48% aqueous hydrobromic acid (200 ml) was heated under reflux for 2 hours, basified with 2M aqueous sodium hydroxide (100 g) cautiously with ice-cooling and extracted into dichloromethane. The organic layer was dried over magnesium sulphate and evaporated. The residue was purified by chromatography on silica using dichloromethane plus 0-10% methanol as eluant. Appropriate fractions were combined and evaporated to give the title compound (10.0 g, 77%) as a colourless powder which was characterised by its 1H-NMR spectrum.

reactant | 4-(2-cyano-2,2-diphenylethyl)-1-(4-methylphenylsulphonyl)piperidine | 45 mmol, 20 g | C(#N)C(CC1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H28N2O2S
reactant | phenol | 20 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydroxide | 2M, 100 g | [OH-].[Na+]
solvent | hydrobromic acid | 200 ml | Br | BrH
product | 4-(2-Cyano-2,2-diphenylethyl)piperidine | 10.0 g, 77% | C(#N)C(CC1CCNCC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H22N2
